US09120777B2
M) Methyl 1-(1-((6-cyclopropyl-2,4′-difluoro-3-isopropoxybiphenyl-4-yl)methyl)piperidin-4-yl)-3-methyl-2-oxo-1,2-dihydropyridine-4-carboxylate hydrochloride
Triethylamine (35.3 g) was added to a suspension of methyl 3-methyl-2-oxo-1-(piperidin-4-yl)-1,2-dihydropyridine-4-carboxylate hydrochoride (100 g) in THF (2.00 L) at room temperature. After being stirred at the same temperature for 30 minutes, 6-cyclopropyl-2,4′-difluoro-3-isopropoxybiphenyl-4-carbaldehyde (121 g) was added to the reaction mixture. The mixture was stirred at room temperature for 30 minutes. Sodium triacetoxyhydroborate (111 g) and acetic acid (20.9 g) were added to the reaction mixture. The mixture was stirred at room temperature for 16 hours. Aqueous saturated sodium hydrogen carbonate solution (1.30 L) and water (1.30 L) were added to the mixture at room temperature. The mixture was extracted with ethyl acetate (10 L). The organic layer was separated, washed with brine (4.00 L), dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was dissolved in ethyl acetate (1.00 L). 4M hydrogen chloride (ethyl acetate solution, 87 ml) was added to the mixture at room temperature. Then crystalline seeds were added to the mixture. The mixture was diluted with diisopropyl ether (2.00 L) and stirred at room temperature for 1 hour. The precipitate was collected by filtration and washed with diisopropyl ether (1.50 L) to give the title compound (183.7 g).

reactant | methyl 3-methyl-2-oxo-1-(piperidin-4-yl)-1,2-dihydropyridine-4-carboxylate hydrochoride | 100 g | Cl.CC=1C(N(C=CC1C(=O)OC)C1CCNCC1)=O
reactant | 6-cyclopropyl-2,4′-difluoro-3-isopropoxybiphenyl-4-carbaldehyde | 121 g | C1(CC1)C1=CC(=C(C(=C1C1=CC=C(C=C1)F)F)OC(C)C)C=O | C19H18F2O2
reactant | Sodium | [Na] | Na
reactant | sodium hydrogen carbonate | 1.30 L | C(O)([O-])=O.[Na+]
solvent | THF | 2.00 L | C1CCOC1 | C4H8O
solvent | water | 1.30 L | O | H2O
solvent | acetic acid | 20.9 g | C(C)(=O)O | C2H4O2
solvent | Triethylamine | 35.3 g | C(C)N(CC)CC | C6H15N
product | Methyl 1-(1-((6-cyclopropyl-2,4′-difluoro-3-isopropoxybiphenyl-4-yl)methyl)piperidin-4-yl)-3-methyl-2-oxo-1,2-dihydropyridine-4-carboxylate hydrochloride | 183.7 g | Cl.C1(CC1)C1=CC(=C(C(=C1C1=CC=C(C=C1)F)F)OC(C)C)CN1CCC(CC1)N1C(C(=C(C=C1)C(=O)OC)C)=O | InChI=1S/C32H36F2N2O4.ClH/c1-19(2)40-30-23(17-27(21-5-6-21)28(29(30)34)22-7-9-24(33)10-8-22)18-35-14-11-25(12-15-35)36-16-13-26(32(38)39-4)20(3)31(36)37;/h7-10,13,16-17,19,21,25H,5-6,11-12,14-15,18H2,1-4H3;1H
